US07989444B2
2-Ethyl-7-(3-{[4-methyl-5-(3-pyridinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.25 mmol) and 3-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}pyridine and was obtained as a faint yellow slightly hygroscopic solid (0.12 mmol).

reactant | 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.25 mmol | C(C)C=1OC2=CC3=C(CCNCC3)C=C2N1 | C13H16N2O
reactant | 3-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}pyridine | ClCCCSC=1N(C(=NN1)C=1C=NC=CC1)C | C11H13ClN4S
product | 2-Ethyl-7-(3-{[4-methyl-5-(3-pyridinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.C(C)C=1OC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C=3C=NC=CC3)C=C2N1 | InChI=1S/C24H28N6OS.ClH/c1-3-22-26-20-14-17-7-11-30(12-8-18(17)15-21(20)31-22)10-5-13-32-24-28-27-23(29(24)2)19-6-4-9-25-16-19;/h4,6,9,14-16H,3,5,7-8,10-13H2,1-2H3;1H
